US07799805B2
(4-Chloro-3-hydroxymethyl-benzyl)-(2-fluoro-ethyl)-carbamic acid tert-butyl ester
TBAF (1M in THF, 8.84 mL, 8.84 mmol) was added to a sol. of [3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-(2-fluoro-ethyl)-carbamic acid tert-butyl ester (1.91 g, 4.42 mmol) in THF (44.2 mL) at 0° C. The mixture was stirred for 1 h while warming up to rt. EtOAc (100 mL) was added, and the resulting mixture was washed with aq. sat. NH4Cl (2×) and brine (1×). The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (EtOAc/heptane 30:70) yielded the title compound (901 mg, 64%). LC-MS: tR=0.64 min; ES+: 318.07.

reactant | TBAF | 8.84 mmol, 1M, 8.84 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | [3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-(2-fluoro-ethyl)-carbamic acid tert-butyl ester | 4.42 mmol, 1.91 g | C(C)(C)(C)OC(N(CCF)CC1=CC(=C(C=C1)Cl)C(O[SiH2]C(C)(C)C)(C)C)=O | C21H35ClFNO3Si
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | THF | 44.2 mL | C1CCOC1 | C4H8O
product | (4-Chloro-3-hydroxymethyl-benzyl)-(2-fluoro-ethyl)-carbamic acid tert-butyl ester | 901 mg, 64% | C(C)(C)(C)OC(N(CCF)CC1=CC(=C(C=C1)Cl)CO)=O | C15H21ClFNO3
